US05843973
Trans-4-methanesulfonyloxymethyl-1-t-butyldimethylsilyloxymethylcyclohexane
In 200 ml of dry dichloromethane were dissolved 11.9 g of trans-4-t-butyldimethylsilyloxymethyl-1-hydroxymethylcyclohexane, and 9.63 ml of triethylamine and 9.98 g of methanesulfonic acid anhydride were added thereto with stirring under ice-cooling, and the resulting mixture was stirred at room temperature for 30 minutes. To the reaction mixture were added 200 ml of ethyl acetate, and the mixture was washed with an aqueous sodium bicarbonate solution and an aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography employing cyclohexane-ethyl acetate (8:1-5:1) as an eluting solvent to obtain 12.2 g of the desired compound as a colorless oil.

reactant | trans-4-t-butyldimethylsilyloxymethyl-1-hydroxymethylcyclohexane | 11.9 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CC[C@H](CC1)CO | C14H30O2Si
reactant | triethylamine | 9.63 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid anhydride | 9.98 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Trans-4-methanesulfonyloxymethyl-1-t-butyldimethylsilyloxymethylcyclohexane | 12.2 g | CS(=O)(=O)OC[C@@H]1CC[C@H](CC1)CO[Si](C)(C)C(C)(C)C | C15H32O4SSi
